US05616762
In analogy to Example 3, a mixture of 3 g of p-xylene, 5.3 g (0.055 mol) of 3,3,3-trifluoro-1-propene and 9.4 g (0.5 mol) of cyclopentyldiethoxysilane was reacted in the presence of 0.1 mg of iridium(III) chloride hydrate, after a mixing time of 70 minutes, at 83° C. over 180 minutes. Analysis by gas chromatography gave a product yield of 77% of 3,3,3-trifluoropropylcyclopentyldiethoxysilane.

reactant | 3,3,3-trifluoro-1-propene | 0.055 mol, 5.3 g | FC(C=C)(F)F | C3H3F3
reactant | cyclopentyldiethoxysilane | 0.5 mol, 9.4 g | C1(CCCC1)[SiH](OCC)OCC | C9H20O2Si
catalyst | iridium(III) chloride hydrate | 0.1 mg | O.[Ir](Cl)(Cl)Cl
solvent | p-xylene | 3 g | CC=1C=CC(=CC1)C | C8H10
product | 3,3,3-trifluoropropylcyclopentyldiethoxysilane | yield of 77% | FC(CC[Si](OCC)(OCC)C1CCCC1)(F)F | C12H23F3O2Si
